US04956366
2-(4-Methoxy-2-pyrimidinylmethylsulfinyl)-1H-thieno[3,4-d]imidazole
1.1 g of 2-(4-methoxy-2-pyrimidinylmethylthio)-1H-thieno[3,4-d]imidazole were dissolved in 100 ml of dichloromethane and, at -10° C., 820 mg of m-chloroperbenzoic acid were added in portions. The mixture was then stirred at room temperature for 15 minutes, extracted by shaking with sodium bicarbonate solution, and the organic phase was dried over sodium sulfate and concentrated. Purification by chromatography resulted in 300 mg of 2-(4-methoxy-2-pyrimidinylmethylsulfinyl)1H-thieno[3,4-d]imidazole (melting point 125° C. [decomposition]).

reactant | 2-(4-methoxy-2-pyrimidinylmethylthio)-1H-thieno[3,4-d]imidazole | 1.1 g | COC1=NC(=NC=C1)CSC1=NC=2C(N1)=CSC2 | C11H10N4OS2
reactant | m-chloroperbenzoic acid | 820 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-(4-Methoxy-2-pyrimidinylmethylsulfinyl)-1H-thieno[3,4-d]imidazole | COC1=NC(=NC=C1)CS(=O)C1=NC=2C(N1)=CSC2 | C11H10N4O2S2
